US03969464
Following the procedure of Example 1 but using 0.50 g. of PGA1, 0.254 ml. of triethylamine, 0.238 ml. of isobutylchloroformate, and 0.309 g. of p-hydroxyacetophenone, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-hexane (2:3), followed by ethyl acetate-hexane (7:3). The residue obtained by concentration of selected fractions, 0.500 g., an oil, is the title compound, having Rf 0.4 (TLC on silica gel in ethyl acetate-hexane (1:1)).

reactant | PGA1 | CCCCC[C@@H](/C=C/[C@H]1C=CC(=O)[C@@H]1CCCCCCC(=O)O)O | C20H32O4
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | p-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
